US08431607B2
(4S,5S)-3-(4-chlorophenyl)-4-(3,5-difluorophenyl)-5-((5-(6-methylpyridin-3-yl)-2H-tetrazol-2-yl)methyl)oxazolidin-2-one
To a small reaction tube is placed ((4S,5R)-3-(4-chlorophenyl)-4-(3,5-difluorophenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate (50 mg, 0.12 mmol), ACN (1 mL), 2-methyl-5-(2H-tetrazol-5-yl)pyridine (39 mg, 0.24 mmol), and potassium carbonate (33 mg, 0.24 mmol). The tube is capped and the reaction is heated to 90° C. for 4 h. The reaction is then quenched with water (2 mL), and extracted with EtOAc, dried over MgSO4, filtered, and concentrated. The product is purified by flash chromatography (12 g Redisep, 0-10% MeOH/DCM) to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 9.18 (br s, 1H), 8.39 (d, J=8.1 Hz, 1H), 7.58 (br s, 1H), 7.47-7.44 (m, 2H), 7.29-7.23 (m, 2H), 7.02 (dddd, J=9.1, 9.1, 2.3, 2.3 Hz, 1H), 5.87 (d, J=5.0 Hz, 1H), 5.54 (dd, J=14.7, 5.8 Hz, 1H), 5.46 (dd, J=14.7, 4.0 Hz, 1H), 5.12 (ddd, J=5.7, 5.1, 4.0 Hz, 1H), 2.65 (s, 3H); HPLC-MS calculated C23H17ClF2N6O2 (M+H+) 483.1, found 483.0.

reactant | ((4S,5R)-3-(4-chlorophenyl)-4-(3,5-difluorophenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate | 0.12 mmol, 50 mg | CS(=O)(=O)OC[C@H]1[C@@H](N(C(O1)=O)C1=CC=C(C=C1)Cl)C1=CC(=CC(=C1)F)F | C17H14ClF2NO5S
reactant | 2-methyl-5-(2H-tetrazol-5-yl)pyridine | 0.24 mmol, 39 mg | CC1=NC=C(C=C1)C=1N=NNN1 | C7H7N5
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 1 mL | C(C)#N | C2H3N
product | (4S,5S)-3-(4-chlorophenyl)-4-(3,5-difluorophenyl)-5-((5-(6-methylpyridin-3-yl)-2H-tetrazol-2-yl)methyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC(=C1)F)F)CN1N=C(N=N1)C=1C=NC(=CC1)C)=O | C23H17ClF2N6O2
